US05912042
In a second hexane fractionation, above olein-fraction was fractionated, (3,22:1 hexane to oil ratio at -10° C.); a stearin fraction was obtained. This stearin fraction contained 60 wt % of diglycerides of which 56,7 wt % were of the SU-type. The overall yield from fractionations was 29%. A third fractionation was performed on the stearin fraction obtained (5:1 hexane to oil at 24,5° C.). The olein-fraction was collected, it contained 62 wt % of diglycerides of which 72,5 wt % were SU-diglycerides. The overall yield was 23%.

reactant | olein | CCCCCCCC/C=C\CCCCCCCC(=O)OCC(OC(=O)CCCCCCC/C=C\CCCCCCCC)COC(=O)CCCCCCC/C=C\CCCCCCCC | C57H104O6
solvent | hexane | CCCCCC | C6H14
product | stearin | yield was 23% | CCCCCCCCCCCCCCCCCC(=O)OCC(COC(=O)CCCCCCCCCCCCCCCCC)OC(=O)CCCCCCCCCCCCCCCCC | C57H110O6
